US05144045
(R)-4-Hexadecyl-4-[(phenylmethoxy)methyl]-2-azetidinone
To a solution of 3.0 g of 2-[(phenylmethoxy)methyl]-1-octadecene in 10 ml of benzene under argon is added 1.05 ml of chlorosulfonyl isocyanate. The mixture is stirred overnight and then poured into a solution of 22 g of sodium bisulfite, 100 ml of water, 5 ml of 10% sodium hydroxide and 100 ml of ether. This mixture is stirred for 2 hours, and the organic layer separated, dried and evaporated. The residue is purified by chromatography, to give 1.1 g of the desired compound as a colorless oil.

reactant | 2-[(phenylmethoxy)methyl]-1-octadecene | 3.0 g | C1(=CC=CC=C1)COCC(=C)CCCCCCCCCCCCCCCC | C26H44O
reactant | chlorosulfonyl isocyanate | 1.05 ml | ClS(=O)(=O)N=C=O | CClNO3S
reactant | sodium bisulfite | 22 g | S([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
product | (R)-4-Hexadecyl-4-[(phenylmethoxy)methyl]-2-azetidinone | 1.1 g | C(CCCCCCCCCCCCCCC)[C@@]1(CC(N1)=O)COCC1=CC=CC=C1 | C27H45NO2
